US07888349B2
Hydrogen chloride (100 mL of a 4 N solution in 1,4-dioxane) was added to a solution of tert-butyl 11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate (9.1 g, 27 mmol) in methanol (60 mL). The reaction was stirred overnight at ambient temperature and then diluted with diethyl ether. A precipitate was present and was isolated by filtration, washed sequentially with dichloromethane and diethyl ether, and dried under vacuum to provide 7.47 g of 9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline hydrochloride as a white solid.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | 27 mmol, 9.1 g | C1=C2C3=C(C=NC2=CC=C1)N=C1N3CCCN(C1)C(=O)OC(C)(C)C | C19H22N4O2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | 60 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline hydrochloride | 7.47 g | Cl.C1=C2C3=C(C=NC2=CC=C1)N=C1N3CCCNC1 | InChI=1S/C14H14N4.ClH/c1-2-5-11-10(4-1)14-12(8-16-11)17-13-9-15-6-3-7-18(13)14;/h1-2,4-5,8,15H,3,6-7,9H2;1H
